US08067590B2
6.1c 4-(Furan-2-ylmethoxy)-1-[2-(4-pyrrolidin-1-ylmethyl-phenyl)-ethyl]-1H-pyridin-2-one
To 50 mg (0.13 mmol) 1-[2-(4-bromomethyl-phenyl)-ethyl]-4-(furan-2-ylmethoxy)-1H-pyridin-2-one in 1.5 mL DMF is added 42 μL (0.52 mmol) pyrrolidine at RT. The reaction mixture is stirred for 2 h at RT and is directly added to a reverse HPLC for purification (Zorbax stable bond, C18; water (0.15% formic acid)/acetonitrile 95:5 to 10:90).

reactant | 1-[2-(4-bromomethyl-phenyl)-ethyl]-4-(furan-2-ylmethoxy)-1H-pyridin-2-one | 0.13 mmol, 50 mg | BrCC1=CC=C(C=C1)CCN1C(C=C(C=C1)OCC=1OC=CC1)=O | C19H18BrNO3
reactant | pyrrolidine | 0.52 mmol, 42 μL | N1CCCC1 | C4H9N
reactant | water | O | H2O
reactant | acetonitrile | C(C)#N | C2H3N
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 4-(Furan-2-ylmethoxy)-1-[2-(4-pyrrolidin-1-ylmethyl-phenyl)-ethyl]-1H-pyridin-2-one | O1C(=CC=C1)COC1=CC(N(C=C1)CCC1=CC=C(C=C1)CN1CCCC1)=O | C23H26N2O3
